US08426420B2
iv) (S)-2-({5-[2-((S)-2-(2-Fluoro-ethylcarbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester
To a solution of 1.30 g (S)-2-({5-[2-((S)-2-(2-Fluoro-ethylcarbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester 1-methyl ester in 9 ml THF were added 52 mg LiOH (as solution in 3 ml water). After 2 h the reaction mixture was neutralized with Amberlite IR-120, filtrated and washed with methanol.

reactant | (S)-2-({5-[2-((S)-2-(2-Fluoro-ethylcarbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester 1-methyl ester | 1.30 g | COC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NCCF)=O)C1=CC=CC=C1)=O | C29H38FN5O8
reactant | LiOH | 3 ml, 52 mg | [Li+].[OH-]
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | (S)-2-({5-[2-((S)-2-(2-Fluoro-ethylcarbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NCCF)=O)C1=CC=CC=C1)=O | C28H36FN5O8
